US06906067B2
2-(t-Butyl-dimethyl-silanyloxymethyl)-4-methane sulfonyloxy-pyrrolidine-1-carboxylic acid t-butyl ester
The 4-hydroxy-2-(t-butyl-dimethyl-silanyloxymethyl)-pyrrolidine-1-carboxylic acid t-butyl ester (192.15 mg, 0.58 mmol) was dissolved in anhydrous DCM and triethylamine (176.07 mg, 1.74 mmol, 0.24 mL) was added under argon. The reaction mixture was cooled to 0° C. and methanesulfonyl chloride (73.08 mg, 0.64 mmol, 0.05 mL) was added via syringe. The reaction was stiffed at 0° C. for 30 min and then allowed to warm to room temp and stir for 12 h. The reaction was slowly poured into a 1N HCl solution and the aqueous layer was extracted three times with ethyl acetate. The combined organic layers were washed with water and brine then dried over MgSO4. The solution was filtered and the solvent removed under reduced pressure. The product was isolated by flash chromatography. (4:1 hexane-ethyl acetate) Yield 220.94 mg. 1H NMR (CDCl3, 300 MHz): δ 0.05 (m, 6H), 0.89 (s, 9H), 1.46 (s, 9H), 2.20-2.43 (m, 2H), 3.04 (s, 3H), 3.48-3.92 (m, 4H), 3.93-4.10 (m, 1H), 5.31 (bs, 1H).

reactant | 4-hydroxy-2-(t-butyl-dimethyl-silanyloxymethyl)-pyrrolidine-1-carboxylic acid t-butyl ester | 0.58 mmol, 192.15 mg | C(C)(C)(C)OC(=O)N1C(CC(C1)O)C(O[SiH2]C(C)(C)C)(C)C | C16H33NO4Si
reactant | triethylamine | 1.74 mmol, 0.24 mL, 176.07 mg | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.64 mmol, 0.05 mL, 73.08 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | HCl | 1N | Cl | ClH
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 2-(t-Butyl-dimethyl-silanyloxymethyl)-4-methane sulfonyloxy-pyrrolidine-1-carboxylic acid t-butyl ester | C(C)(C)(C)OC(=O)N1C(CC(C1)OS(=O)(=O)C)C(O[SiH2]C(C)(C)C)(C)C | C17H35NO6SSi
